US07294623B2
(iii) (R)-phenyl[(2R)-4-(phenylmethyl)morpholin-2-yl]methanol
To a stirred solution of (+)-DIP chloride (49.6 g, 155 mmol) in dry TBF (150 ml) under nitrogen was added (2R)-(4-benzyl-morpholin-2-yl)-phenyl-methanone (16.54 g, 58.89 mmol) in one portion. The reaction mixture was stirred at room temperature for 18 hours. The mixture was evaporated in vacuo and the crude oil taken up in methanol and absorbed onto 250 g SCX-2 ion exchange resin. After elution of borane residues with methanol the product was eluted with 2M ammonia in methanol. Removal of solvent in vacuo yielded the product as yellow oil. (11.23 g, 67%); MW 283.37; C18H21NO2; 1H NMR (CDCl3): 7.32-7.45 (10H, m), 4.67 (1H, d, 7.3 Hz), 4.03 (1H, dt, 11.4 Hz, 2.7 H), 3.86-3.73 (2H, m), 3.64 (1H, d, 13.2 Hz), 3.39 (1H, d, 13.2 Hz), 3.30 (1H, br. s), 2.68 (1H, d, 12.7 Hz), 2.56 (1H, d, 10.9 Hz), 2.28-2.15 (2H, m); LCMS: m/z 284 [M+H]+ @ Rt 0.95 min.

reactant | (+)-DIP chloride | 155 mmol, 49.6 g | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | (2R)-(4-benzyl-morpholin-2-yl)-phenyl-methanone | 58.89 mmol, 16.54 g | C(C1=CC=CC=C1)N1C[C@@H](OCC1)C(=O)C1=CC=CC=C1 | C18H19NO2
product | (R)-phenyl[(2R)-4-(phenylmethyl)morpholin-2-yl]methanol | C1(=CC=CC=C1)[C@@H](O)[C@H]1CN(CCO1)CC1=CC=CC=C1 | C18H21NO2
